US07557131B2
Preparation 91: (3S)-3-(2-Chlorophenoxy)pyrrolidine hydrochloride
The title compound was prepared from tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate and 2-chlorophenol, using the same method as that described for preparation 84, as a pale pink solid in 54% yield. LCMS APCI m/z 198 [M+H]+

reactant | tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | 2-chlorophenol | ClC1=C(C=CC=C1)O | C6H5ClO
product | (3S)-3-(2-Chlorophenoxy)pyrrolidine hydrochloride | 54% yield | Cl.ClC1=C(O[C@@H]2CNCC2)C=CC=C1 | InChI=1S/C10H12ClNO.ClH/c11-9-3-1-2-4-10(9)13-8-5-6-12-7-8;/h1-4,8,12H,5-7H2;1H/t8-;/m0./s1
